* C:\Users\carri\OneDrive\Desktop\Master's Thesis\Simulations\AC_Voltage_Sensing2.asc
L1 Vac_in- N005 17
L2 N009 N006 17
R1 N005 Vac_in+ 33k
R2 N006 N009 100
C1 N007 N006 1µ
R3 N001 N007 10k
R4 N009 Vcc 10k
R5 N009 0 10k
V1 Vcc 0 5
XU1 N009 N001 Vcc 0 N002 LT1001
C2 N002 N001 100p
R6 N002 N001 100k
R7 N002 0 10k
C3 N008 N002 1µ
R8 N003 N008 10k
XU2 N004 N003 Vcc 0 Vac LT1001
C4 Vac N003 100p
R9 Vac N003 100k
R10 Vcc N004 10k
R11 N004 0 10k
V2 Vac_in+ 0 SINE(0 24 60)
V3 0 Vac_in- SINE(0 24 60)
K L1 L2 1
.tran 100m
.lib LTC.lib
.backanno
.end
