* C:\Users\carri\OneDrive\Desktop\Master's Thesis\AtInverter\sims\AC_Voltage_Sensing2.asc
L1 P_AC-_1 P_AC+_1 17
L2 N006 N004 17
R1 P_AC+_1 Vac_in+ 33k
R2 N004 N006 100
C1 N005 N004 1µ
R3 N001 N005 10k
R4 N006 Vcc 10k
R5 N006 0 10k
V1 Vcc 0 5
XU1 N006 N001 Vcc 0 Vamp_Out1 LT1001
C2 Vamp_Out1 N001 100p
R6 Vamp_Out1 N001 100k
R7 Vtune 0 50k
C3 N007 Vtune 1µ
R8 N002 N007 10k
XU2 N003 N002 Vcc 0 Vac LT1001
C4 Vac N002 100p
R9 Vac N002 100k
R10 Vcc N003 10k
R11 N003 0 10k
V2 Vac_in+ 0 SINE(0 12 60)
V3 0 P_AC-_1 SINE(0 12 60)
R12 Vamp_Out1 Vtune 50k
K L1 L2 1
.tran 100m
.lib LTC.lib
.backanno
.end
