* C:\Users\carri\OneDrive\Desktop\Master's Thesis\AtInverter\sims\AC_Voltage_Sensing2.asc
L1 P_AC-_1 P_AC+_1 17
L2 N007 N005 17
R1 P_AC+_1 Vac_in+ 33k
R2 N005 N007 100
C1 N006 N005 1µ
R3 N001 N006 10k
R4 N007 Vcc 10k
R5 N007 0 10k
V1 Vcc 0 5
XU1 N007 N001 Vcc 0 N002 LT1001
C2 N002 N001 100p
R6 N002 N001 100k
R7 N008 0 56.5k
C3 N009 N008 1µ
R8 N003 N009 10k
XU2 N004 N003 Vcc 0 Vac LT1001
C4 Vac N003 100p
R9 Vac N003 100k
R10 Vcc N004 10k
R11 N004 0 10k
V2 Vac_in+ 0 SINE(0 12 60)
V3 0 P_AC-_1 SINE(0 12 60)
R12 N002 N008 42.3k
K L1 L2 1
.tran 100m
.lib LTC.lib
.backanno
.end
